US06043254
3.18 3-{(Z)-1-[4-((pyrrolidin-1-yl)methyl)anilino]-1-phenylmethylidene}-5-nitro-2-indolinone
Prepared from 1-acetyl-3-{1-ethoxy-1-phenylmethylidene}-5-nitro-2-indolinone and 2 equivalents of 4-(1-pyrrolidinyl-methyl)-aniline, melting point 45-50° C. in DMF followed by treatment with 1N sodium hydroxide solution in MeOH.

reactant | 1-acetyl-3-{1-ethoxy-1-phenylmethylidene}-5-nitro-2-indolinone | C(C)(=O)N1C(C(C2=CC(=CC=C12)[N+](=O)[O-])=C(C1=CC=CC=C1)OCC)=O | C19H16N2O5
reactant | 4-(1-pyrrolidinyl-methyl)-aniline | 2 equivalents | N1(CCCC1)CC1=CC=C(N)C=C1 | C11H16N2
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | MeOH | CO | CH4O
product | 3-{(Z)-1-[4-((pyrrolidin-1-yl)methyl)anilino]-1-phenylmethylidene}-5-nitro-2-indolinone | N1(CCCC1)CC1=CC=C(N\C(\C2=CC=CC=C2)=C\2/C(NC3=CC=C(C=C23)[N+](=O)[O-])=O)C=C1 | C26H24N4O3
